US07795282B2
Step C: Preparation of 2-(5-(2,5-difluorophenyl)-2-methyl-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-5-methyl-1,3,4-thiadiazole.
5-(2,5-difluorophenyl)-2-methyl-2-phenyl-1,3,4-thiadiazole-3(2H)-carbothiohydrazide (0.268 g, 0.735 mmol) was weighed into a 25 mL 1 neck flask, and suspended in 9.0 mL of trimethylorthoacetate (0.088 g, 0.74 mmol). P-toluenesulfonic acid hydrate (0.0028 g, 0.015 mmol) was then added, and the reaction heated to 80° C. for 1 hour. The reaction was then concentrated in vacuo, and then purified by flash column chromatography (20-50% ethyl acetate/hexanes) yielding 0.201 g, 70% of the desired product as a white solid. MS ESI (+) m/z 389 (M+1) detected; 1H NMR (400 MHz, CDCl3) δ 7.56 (m, 2H), 7.34 (m, 2H), 7.27 (m, 2H), 7.08 (m, 2H), 2.59 (s, 3H), 2.56 (s, 3H).

reactant | 5-(2,5-difluorophenyl)-2-methyl-2-phenyl-1,3,4-thiadiazole-3(2H)-carbothiohydrazide | 0.735 mmol, 0.268 g | FC1=C(C=C(C=C1)F)C1=NN(C(S1)(C1=CC=CC=C1)C)C(NN)=S | C16H14F2N4S2
reactant | trimethylorthoacetate | 0.74 mmol, 9.0 mL, 0.088 g | CC(C([O-])([O-])[O-])(C)C
product | 2-(5-(2,5-difluorophenyl)-2-methyl-2-phenyl-1,3,4-thiadiazol-3(2H)-yl)-5-methyl-1,3,4-thiadiazole | 0.201 g, 70% | FC1=C(C=C(C=C1)F)C1=NN(C(S1)(C1=CC=CC=C1)C)C=1SC(=NN1)C | C18H14F2N4S2
